US09278915B2
Intermediate 110: Ethyl 3-[2-(3,5-dimethyl-1,2-oxazol-4-yl)-4-hydroxy phenyl]propanoate
To a 25 mL RB flask fitted with magnetic stirrer was charged with 10 mL of dichloromethane. To the stirred solvent was added ethyl 3-[2-(3,5-dimethyl-1,2-oxazol-4-yl)-4-methoxy phenyl]propanoate (0.120 g, 0.4 mmol). The reaction mixture was cooled to 0° C. and boron tribromide (0.099 g, 0.4 mmol) was added drop wise. After stirred for 30 minutes, the reaction mixture was quenched with ethanol (1 mL) at 0° C. by slow addition. The reaction mixture was concentrated to distill off the solvent; ethyl acetate (10 mL) was added. The organic layer was washed with saturated NaHCO3 solution (10 mL), followed by brine solution (10 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The product was obtained as colorless oil (0.1 g, yield: 90.90%).

reactant | ethyl 3-[2-(3,5-dimethyl-1,2-oxazol-4-yl)-4-methoxy phenyl]propanoate | 0.4 mmol, 0.120 g | CC1=NOC(=C1C1=C(C=CC(=C1)OC)CCC(=O)OCC)C | C17H21NO4
reactant | boron tribromide | 0.4 mmol, 0.099 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Ethyl 3-[2-(3,5-dimethyl-1,2-oxazol-4-yl)-4-hydroxy phenyl]propanoate | 0.1 g, yield: 90.90% | CC1=NOC(=C1C1=C(C=CC(=C1)O)CCC(=O)OCC)C | C16H19NO4
